US09359362B2
tert-Butyl [2-({(7R)-6-cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}amino)-2-oxoethyl]carbamate
Under an atmosphere of argon protective gas, N-Boc-Gly-OH (5 mg, 28 μmol) and NMM (5.3 mg, 52 μmol, 2.4 eq.) were dissolved in abs. THF (1 ml), and isobutyl chloroformate (4.2 mg, 31 μmol, 1.4 eq.) was added at −15° C. (solution A). At −78° C., (7R)-2-amino-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile hydrochloride (10 mg, 22 μmol) and NMM (2.2 mg, 22 μmol, 1 eq.) were added, and the mixture was stirred overnight, during which time it slowly warmed to RT. Since the conversion was still incomplete, more solution A consisting of in each case 285 μmol of N-Boc-Gly-OH, isobutyl chloroformate and NMM in abs. THF was added at −15° C., and the mixture was stirred for 3 d, warming to RT. The reaction mixture was then directly purified by preparative HPLC (Gromsil C18 column, 30×250 mm; mobile phase: acetonitrile-water-0.1% TFA). After lyophilization, the product was obtained as a solid (6.3 mg, 50% of theory).

reactant | N-Boc-Gly-OH | 28 μmol, 5 mg | N(CC(=O)O)C(=O)OC(C)(C)C | C7H13NO4
reactant | NMM | 52 μmol, 5.3 mg, 2.4 eq. | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 31 μmol, 4.2 mg, 1.4 eq. | ClC(=O)OCC(C)C | C5H9ClO2
reactant | (7R)-2-amino-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile hydrochloride | 22 μmol, 10 mg | Cl.NC1=NN2C(N(C(=C([C@H]2C2=CC=C(C=C2)C#N)C#N)C)C2=CC(=CC=C2)C(F)(F)F)=N1
reactant | NMM | 22 μmol, 2.2 mg, 1 eq. | CN1CCOCC1 | C5H11NO
reactant | N-Boc-Gly-OH | 285 μmol | N(CC(=O)O)C(=O)OC(C)(C)C | C7H13NO4
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | tert-Butyl [2-({(7R)-6-cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}amino)-2-oxoethyl]carbamate | C(#N)C1=C(N(C=2N([C@@H]1C1=CC=C(C=C1)C#N)N=C(N2)NC(CNC(OC(C)(C)C)=O)=O)C2=CC(=CC=C2)C(F)(F)F)C | C28H25F3N8O3
